Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ w/ PMHx of HTN, HLD, cholecystectomy who was transferred 
from OSH for concern for ischemic colitis.
Pt was well until ___ afternoon when she developed sudden 
onset of sharp, cramping, severe lower abdominal pain. Pain was 
so severe that pt collapsed and briefly lost consciousness. She 
then presented to OSH ED where CT scan showed collpase and 
thickening of the colon c/w ischemic colitis. Pt was then 
transferred to ___ for possible surgical management.
In ED initial vitals were 98.6 66 113/64 20 98%RA. Lactate was 
1.0 and WBC was normal. Surgery was consulted and recommended 
medical management. Pt given morphine for pain control, 
cipro/flagyl for empiric coverage, 2L NS, and was transfered to 
floor.
On floor, repeat lactate was 2.1. VS remained stable. This 
morning, pt says that her pain was greatly improved and is ___ 
at rest. She reports three large bowel movements yesterday that 
were blood streaked, but not bowel movements since. Denies 
nausea, emesis, back pain, CP, SOB, fevers, chills, HA. 
 
Past Medical History:
Lichen Sclerosis
Osteoporosis
HTN
vitiligo/sundamaged skin
polyps found on ___ colonoscopy
GERD
pancreatitis 
 
Social History:
___
Family History:
___ Cancer, HTN died age ___
MGM- died age ___
MGF- died age ___ Hemorrhage
Father-DM, HTN, Heart Disease died age ___
Sister-HTN, one with cancer 
 
Physical Exam:
VITALS: 100.7, 126/64, 70, 20, 97%RA
GENERAL: Sleepy, but in NAD
HEENT: PERRL, EOMI
NECK: no carotid bruits, JVD
LUNGS: CTAB
HEART: RRR, normal S1 S2, no MRG
ABDOMEN: Soft, but extremely tender to palpation in LLQ and 
around epigastric region no rebound tenderness. BS+
EXTREMITIES: No c/c/e
NEUROLOGIC: A+OX3 

DISCHARGE:
VS 98-98.7 ___ 100-104/48-54 ___ 96-97%RA
GEN Alert, oriented, no acute distress. thin elderly woman.
HEENT NCAT MMM EOMI sclera anicteric, OP clear
NECK supple, no JVD, no LAD
PULM Good aeration, CTAB no wheezes, rales, ronchi
CV RRR normal S1/S2, no mrg
ABD soft ND normoactive bowel sounds, no r/g. Minimal TTP in 
lower abdomen.
EXT WWP 2+ pulses palpable bilaterally, no c/c/e
NEURO motor function grossly normal
SKIN no ulcers or lesions 
 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.6 RBC-3.10* Hgb-10.0* Hct-29.9* 
MCV-96 MCH-32.1* MCHC-33.3 RDW-13.1 Plt ___
___ 09:03PM BLOOD WBC-9.0 RBC-3.91* Hgb-12.4 Hct-37.7 
MCV-97 MCH-31.8 MCHC-32.9 RDW-12.9 Plt ___
___ 07:00AM BLOOD WBC-6.3 RBC-3.02* Hgb-9.5* Hct-29.4* 
MCV-97 MCH-31.4 MCHC-32.3 RDW-13.0 Plt ___
___ 09:03PM BLOOD Neuts-89.9* Lymphs-6.5* Monos-3.4 Eos-0.2 
Baso-0.1
___ 07:00AM BLOOD Glucose-102* UreaN-5* Creat-0.5 Na-137 
K-3.0* Cl-108 HCO3-22 AnGap-10
___ 09:03PM BLOOD Glucose-103* UreaN-26* Creat-0.8 Na-143 
K-3.6 Cl-109* HCO3-24 AnGap-14
___ 07:00AM BLOOD ALT-27 AST-22 LD(LDH)-151 AlkPhos-32* 
TotBili-0.3
___ 09:03PM BLOOD ALT-36 AST-38 AlkPhos-37 TotBili-0.5
___ 09:03PM BLOOD Albumin-4.1
___ 07:20AM BLOOD Calcium-8.1* Phos-3.3 Mg-1.6

___ 09:08PM BLOOD Lactate-1.0
___ 02:51AM BLOOD Lactate-2.1*
___ 08:36AM BLOOD Lactate-1.3

CTA abdomen/pelvis ___:
IMPRESSION:
1. Large bowel wall-thickening and submucosal edema in the 
vascular
distribution of the ___. While there is no apparent stenosis or 
thrombosis of the ___, proximally, a more distal arterial 
occlusion cannot be excluded; however, this overall appearance 
of bowel may also be seen with "low-flow" venous ischemia. 
Inflammatory and infectious processes also remain differential 
diagnostic considerations, that might be assessed by 
colonoscopy.
2. Periportal edema and small ascites, particularly perihepatic. 
This may relate to the process, #1, above and/or to volume 
overload with "third-spacing."
3. Bilateral simple-appearing renal cysts. 
 
Brief Hospital Course:
# Colitis - There was initial concern for ischemic colitis that 
would require surgical intervention. Lactate was 1.0 on arrival, 
increased to 2.0 several hours later, but repeat lactate was 
1.3. Patient clinically improved quickly, and surgery was not 
necessary. Presentation and CTA findings were consistent with 
ischemic colitis in ___ distribution, but 
infectious/inflammatory colitis could not be excluded as no 
occlusion was seen in ___. Ciprofloxacin and flagyl were 
continued throughout admission and stool studies were sent and 
pending upon discharge. Patient was without abdominal pain and 
was tolerating PO.

# Hypotension: Pt was borderline hypotensive with complains of 
intermittent lightheadedness. Lisinopril was held and IVF @ 
125cc/hr given. When patient was able to take PO, fluid and salt 
intake encouraged. BPs returned to normal when patient returned 
to normal diet and she was no longer lightheadeded.

# Anemia: Patient reported bloody bowel movements, but they 
ceased after admission. Hemoglobin decreased with hydration from 
12.4 on admission to a low of 9.5. It rose to 10.0 on day of 
admission. Transfusion was not required.

# Hypokalemia: Was likely due to GI losses. Resolved with 
repletion.

# HTN: Lisinopril was held due to borderline hypotension. Pt 
instructed not to restart his medication until she followed-up 
with her PCP.

# Hyperlipidemia: Stable. Continued simvastatin, aspirin 81mg. 

# GERD: Stable. Continued omeprazole. 

TRANSITIONAL ISSUES:
# Outpatient colonoscopy recommended
# Stool studies are pending upon discharge and must be 
followed-up.
# Discuss when to restart lisinopril w/ PCP.
# Will follow-up with ACS.

 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from webOMR.
1. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY 
apply to affected area once daily 
2. Lisinopril 10 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO BID 
2. Simvastatin 20 mg PO DAILY 
3. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY 
apply to affected area once daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ for evaluation of your 
abdominal pain. A CT scan of your abdomen done at ___ 
___ showed inflammation of your colon. The doctors at 
___ were concerned that you may have had ischemic colitis, 
which is a condition in which the colon does not get enough 
blood supply and is damaged. This can occur because of very low 
blood pressure or because of a clot in the vessels that supply 
the colon. The doctors at ___ were concerned that you may 
have needed surgery, so you were sent to ___. The 
surgeons here did not believe that you needed surgery because 
you were feeling better. We got another CT scan of your abdomen, 
which showed that your colon had not suffered more damage; it 
was unchanged from your CT scan in ___. It also did not show 
any clots or blockages in the blood vessels that supply your 
colon. 

It is also possible that the inflammation in your colon is due 
to infection (infectious colitis), so we gave you antibiotics 
while you were in the hospital. We also tested your stool for 
bacteria. The results of your stool tests have not yet returned. 
We will contact you with these results when they are available. 
You no longer need to take antibiotics. 

When the inflammation in your colon has resolved, we recommend 
that you get a colonoscopy. Please discuss the timing of this 
procedure with your primary care doctor and with the surgeon at 
your follow-up appointment.

While you were in the hospital, your blood pressure was lower 
than it normally is, so we stopped your blood pressure 
medication (lisinopril). You should not restart this medication 
until talking with your primary care doctor. You should also 
drink lots of fluids to help keep your blood pressure up.

We made the following changes to your medications:
1. lisinopril - we stopped this medication.

We have scheduled follow-up appointments for you with your 
primary care physician and with acute care surgery. If you 
cannot keep your appointments, please call to reschedule.

It was a pleasure taking part in your care. We wish you a quick 
recovery and good health.
 
Followup Instructions:
___